US05236940
6-Trifluoromethoxy-5-nitro-2-benzothiazolamine (7.2 g), ethanol (25 cc), water (25 cc), iron powder (8.7 g) and concentrated hydrochloric acid (d=1.19) (1.1 cc) are heated to reflux for 2 hours. After returning to a temperature in the region of 20° C., the mixture is alkalinized with 28% strength ammonia solution (10 cc) and extracted 4 times with ethyl acetate (350 cc in total). The organic solution is evaporated at 50° C. under reduced pressure (20 mm Hg; 2.7 kPa). The product obtained (6.4 g) is purified by chromatography on a column of silica (800 g; particle size: 0.063-0.200 mm), eluting with an ethyl acetate/cyclohexane mixture (90:10 by volume), and recrystallized in toluene (320 cc). 6-Trifluoromethoxy-2,5-benzothiazolediamine (4 g), m.p. 175° C., is obtained.

reactant | 6-Trifluoromethoxy-5-nitro-2-benzothiazolamine | 7.2 g | FC(OC1=CC2=C(N=C(S2)N)C=C1[N+](=O)[O-])(F)F | C8H4F3N3O3S
reactant | ethanol | 25 cc | C(C)O | C2H6O
reactant | hydrochloric acid | 1.1 cc | Cl | ClH
reactant | ammonia | 10 cc | N | H3N
catalyst | iron | 8.7 g | [Fe] | Fe
solvent | water | 25 cc | O | H2O
product | 6-Trifluoromethoxy-2,5-benzothiazolediamine | 4 g | FC(OC1=CC2=C(N=C(S2)N)C=C1N)(F)F | C8H6F3N3OS
